US06054448
v) Ethyl 3-(3-cyanomethylcyclobutyl)-3-oxopropanoate
A solution of n-butyllithium in hexane (2.5M, 146 ml) was added dropwise to a mechanically stirred solution of ethyl hydrogen malonate (24.3 g, 0.18 ml) in dry tetrahydrofuran (210 ml) cooled to -60° C. under nitrogen atmosphere. After addition, the reaction mixture was stirred at -10° C. for 10 minutes then cooled to -60° C. and a solution of 3-cyanomethylcyclobutanecarbonyl chloride (17.0 g, 0.11 ml) in dry tetrahydrofuran (230 ml) added dropwise at such a rate to maintain temperature below -10° C. The reaction mixture was stirred overnight at room temperature, diluted with aqueous hydrochloric acid (2M, 180 ml) and extracted with diethyl ether (2×200 ml). The combined extracts were washed with a saturated solution of sodium bicarbonate (100 ml), water (100 ml) and brine solution (100 ml), dried, filtered and evaporated to a yellow oil (20.5 g). The crude product was purified by chromatography eluting with diethyl ether-hexane (1:1 and then 3:2) to give the title compound as an oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl hydrogen malonate | 0.18 ml, 24.3 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | 3-cyanomethylcyclobutanecarbonyl chloride | 0.11 ml, 17.0 g | C(#N)CC1CC(C1)C(=O)Cl | C7H8ClNO
solvent | hexane | 2.5M, 146 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2M, 180 ml | Cl | ClH
product | Ethyl 3-(3-cyanomethylcyclobutyl)-3-oxopropanoate | C(#N)CC1CC(C1)C(CC(=O)OCC)=O | C11H15NO3
